US07858796B2
(66) 5-{5-[(ethylamino)methyl]-2-thienyl}-3-(1-{[3-(4-morpholinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
To a solution of 5-(5-formyl-2-thienyl)-3-(1-{[3-(4-morpholinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide (20 mg, 0.04 mmol) in MeOH/CH2Cl2 (1 mL/1 mL) was added ethyl amine (0.13 mL, 0.24 mmol). The reaction mixture was stirred at room temperature for 2 hours before NaBH4(10.5 mg, 0.24 mmol) was added. The reaction mixture was stirred at room temperature overnight and evaporated all the solvent. The residue was purified by using a Gilson semi-preparative HPLC system, eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) pumped at 25 mL/min to give the title compound (11 mg, 52%)

reactant | 5-(5-formyl-2-thienyl)-3-(1-{[3-(4-morpholinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 0.04 mmol, 20 mg | C(=O)C1=CC=C(S1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCN1CCOCC1 | C26H32N4O5S2
reactant | ethyl amine | 0.24 mmol, 0.13 mL | C(C)N | C2H7N
reactant | NaBH4 | 0.24 mmol, 10.5 mg | [BH4-].[Na+]
solvent | MeOH CH2Cl2 | 1 mL | CO.C(Cl)Cl
product | 5-{5-[(ethylamino)methyl]-2-thienyl}-3-(1-{[3-(4-morpholinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 11 mg, 52% | C(C)NCC1=CC=C(S1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCN1CCOCC1 | C28H39N5O4S2
